US05646173
An ozone stream (3.5 g ozone/hour) was conducted for 45 minutes while stirring through a solution, cooled to -70°, of 10.8 g of (RS)-2-(2-buten-1-yl)-5,6-dichloro-1-indanone in 150 ml of anhydrous dichloromethane and 30 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 4.66 ml of dimethyl sulfide, the mixture was stirred at room temperature for 3 hours. The reaction mixture was evaporated in a vacuum. The residue was treated with 150 ml of dichoromethane and, after the addition of 20 ml of water and 20 ml of trifluoroacetic acid, stirred at room temperature for 3 hours. The mixture was subsequently poured into 100 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 50 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 100 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. There were obtained 11.6 g of crude product which was crystallized from hexane/ethyl acetate. The crystallization gave 7.59 g (73%) of (RS)-2-(2-oxoethyl)-5,6-dichloro-1-indanone as a light yellow solid with m.p. 93°-96°.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3.5 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-5,6-dichloro-1-indanone | 10.8 g | C(C=CC)C1C(C2=CC(=C(C=C2C1)Cl)Cl)=O | C13H12Cl2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-5,6-dichloro-1-indanone | 7.59 g, 73% | O=CCC1C(C2=CC(=C(C=C2C1)Cl)Cl)=O | C11H8Cl2O2
